US07314936B2
To a solution of cyclopentylamine (5.8 mL, 59 mmol, 1.0 eq.) in CH2Cl2 (250 mL) at room temperature was added ethylchloroformate (7.3 mL, 1.3 eq.) followed by an aqueous solution of K2CO3 (37 g in 500 mL of H2O). The mixture was stirred vigorously for 1 h. The separated aqueous layer was extracted twice with CH2Cl2. The combined organic layers were dried over MgSO4, filtered and concentrated to give cyclopentyl-carbamic acid ethyl ester (9.6 g, 88%).

reactant | cyclopentylamine | 59 mmol, 5.8 mL, 1.0 eq. | C1(CCCC1)N | C5H11N
reactant | ethylchloroformate | 7.3 mL, 1.3 eq. | C(C)OC(=O)Cl | C3H5ClO2
reactant | K2CO3 | 500 mL, 37 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | cyclopentyl-carbamic acid ethyl ester | 9.6 g, 88% | C(C)OC(NC1CCCC1)=O | C8H15NO2
